US06864277B2
A) (2S)-N,N-Dimethyl-2-(tert-butoxycarbonyl)-piperidine-2-carboxamide
6.2 g of HOBT and then 9.45 g of DCC are added at RT to a solution of 10 g of (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (commercial) in 130 ml of DCM, and the mixture is left stirring for 1 hour. The reaction mixture is cooled on an ice bath, dimethylamine gas is added by bubbling for two times 10 minutes and the mixture is then left stirring overnight at RT. An insoluble material is filtered off and the filtrate is concentrated under vacuum. The residue is chromatographed on silica gel, eluting with a gradient of a DCM/MeOH mixture of from (98/2; v/v) to (96/4; v/v). The product obtained is taken up in ether and the precipitate is spin-filtered off. 8.5 g of the expected product are obtained.

reactant | HOBT | 6.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 9.45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 10 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | dimethylamine | CNC | C2H7N
reactant | ether | CCOCC | C4H10O
solvent | DCM | 130 ml | C(Cl)Cl | CH2Cl2
product | (2S)-N,N-Dimethyl-2-(tert-butoxycarbonyl)-piperidine-2-carboxamide | 8.5 g | CN(C(=O)[C@]1(NCCCC1)C(=O)OC(C)(C)C)C | C13H24N2O3
